US08957218B2
4-bromo-1,1,1-trifluorobut-2-ene (0.782 g, 4.14 mmol, 1.4 eq) and sodium carbonate (0.376 g, 3.55 mmol, 1.2 eq) are added to suspension of 1-[2-(methoxymethyl)-6-(trifluoromethyl)imidazo[2,1-b][1,3,4]thiadiazol-5-yl]methanamine a19 in N,N-dimethylformamide (15 ml). The mixture is stirred overnight at room temperature to afford crude 4,4,4-trifluoro-N-{[2-(methoxymethyl)-6-(trifluoromethyl)imidazo[2,1-b][1,3,4]thiadiazol-5-yl]methyl}but-2-en-1-amine a20. Ethoxycarbonyl isocyanate (0.51 g, 4.43 mmol, 1.5 eq) is added to the reaction mixture. After 4 h, the reaction is not complete and ethoxycarbonyl isocyanate (0.5 eq) is added again. The reaction mixture is stirred overnight to afford crude ethyl ({[2-(methoxymethyl)-6-(trifluoromethyl)imidazo[2,1-b][1,3,4]thiadiazol-5-yl]methyl}[(4,4,4-trifluorobut-2-en-1-yl]carbamoyl)carbamate a21. Potassium tert-butoxide is added and the reaction mixture is heated at 75° C. for 4 h. After cooling, the reaction mixture is extracted with toluene (2×80 ml). The cumulated organic layers are dried over MgSO4, filtered and condensed under reduced pressure. The residue is purified by chromatography over silicagel (eluent: CH2Cl2/MeOH 99/1) to afford 602 mg of a mixture of ethyl 5-(2,2-difluoroethenyl)-3-{[2-(methoxymethyl)-6-(trifluoromethyl)imidazo[2,1-b][1,3,4]thiadiazol-5-yl]methyl}-2-oxoimidazolidine-1-carboxylate a22 (as the major compound) and ethyl 3-{[2-(methoxymethyl)-6-(trifluoromethyl)imidazo[2,1-b][1,3,4]thiadiazol-5-yl]methyl}-2-oxo-5-(2,2,2-trifluoroethyl)imidazolidine-1-carboxylate a23.

reactant | 4-bromo-1,1,1-trifluorobut-2-ene | 4.14 mmol, 0.782 g, 1.4 eq | BrCC=CC(F)(F)F | C4H4BrF3
reactant | sodium carbonate | 3.55 mmol, 0.376 g, 1.2 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-[2-(methoxymethyl)-6-(trifluoromethyl)imidazo[2,1-b][1,3,4]thiadiazol-5-yl]methanamine | COCC1=NN2C(S1)=NC(=C2CN)C(F)(F)F | C8H9F3N4OS
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4,4,4-trifluoro-N-{[2-(methoxymethyl)-6-(trifluoromethyl)imidazo[2,1-b][1,3,4]thiadiazol-5-yl]methyl}but-2-en-1-amine | FC(C=CCNCC1=C(N=C2SC(=NN21)COC)C(F)(F)F)(F)F | C12H12F6N4OS
